US07947691B2
3-Hydroxy-6-phenyl-1-(tetrahydro-furan-2-ylmethyl)-1H-thieno[3,2-d]pyrimidine-2,4-dione
3-(2,4-dimethoxy-benzyloxy)-6-phenyl-1H-thieno[3,2-d]pyrimidine-2,4-dione (from previous example) was alkylated with 2-bromomethyl-tetrahydro-furan via general procedure B1. This crude intermediate was deprotected via general procedure D1 to give the title compound which was purified by mass-triggered preparative HPLC. 1H NMR (DMSO-d6) δ 7.80 (d, 2H, J=8.1 Hz), 7.78 (s, 1H), 7.52-7.44 (m, 3H), 4.23-4.06 (m, 3H), 3.74 (dd, 1H, J=7.8, 13.8 Hz), 3.59 (dd, 1H, J=7.5, 13.8 Hz), 2.05-1.58 (m, 4H); Electrospray MS: 345 (M+H); retention time: 2.43 min.

reactant | 3-(2,4-dimethoxy-benzyloxy)-6-phenyl-1H-thieno[3,2-d]pyrimidine-2,4-dione | COC1=C(CON2C(NC3=C(C2=O)SC(=C3)C3=CC=CC=C3)=O)C=CC(=C1)OC | C21H18N2O5S
reactant | 2-bromomethyl-tetrahydro-furan | BrCC1OCCC1 | C5H9BrO
product | 3-Hydroxy-6-phenyl-1-(tetrahydro-furan-2-ylmethyl)-1H-thieno[3,2-d]pyrimidine-2,4-dione | ON1C(N(C2=C(C1=O)SC(=C2)C2=CC=CC=C2)CC2OCCC2)=O | C17H16N2O4S
